US06355653B1
A suspension of 13.2 g (0.05 mol) 2-(phenylsulfonyl)-ethanimidic acid ethyl ester hydrochloride in 110 ml chloroform was treated with 50 ml 1N aqueous sodium hydoxide. 20 ml of a saturated aqueous sodiumbicarbonate solution was added and the mixture was extracted with chloroform. The extracts were combined and dried with sodium sulfate and the solvents were distilled off under reduced pressure. The resulting colorless oil was stirred together with 7.82 g (0.05 mol) 2-thiophencarboxylic acid hydrazide in 75 ml chloroform for 24 hours at 50° C. The resulting precipitate was filtered off and dried. A quantitative yield thiophene-2-carboxylic acid N′-(2-benzenesulfonyl-1-imino-ethyl)-hydrazide was obtained as white crystals. MS m/e (%): 324 (M+H+, 100).

reactant | 2-(phenylsulfonyl)-ethanimidic acid ethyl ester hydrochloride | 0.05 mol, 13.2 g | Cl.C(C)OC(CS(=O)(=O)C1=CC=CC=C1)=N
reactant | sodium hydoxide | 1N, 50 ml | [OH-].[Na+]
reactant | sodiumbicarbonate | 20 ml | C([O-])(O)=O.[Na+]
reactant | 2-thiophencarboxylic acid hydrazide | 0.05 mol, 7.82 g | S1C(=CC=C1)C(=O)NN | C5H6N2OS
solvent | chloroform | 110 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
product | thiophene-2-carboxylic acid N′-(2-benzenesulfonyl-1-imino-ethyl)-hydrazide | quantitative yield | C1(=CC=CC=C1)S(=O)(=O)CC(=N)NNC(=O)C=1SC=CC1 | C13H13N3O3S2
